data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03816.json
{"doi": "10.1021_acs.orglett.3c03816", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical decarboxylative alkoxy-alkoxycarbonylation of alkenes with potassium oxalate monoesters and alcohols to give β-alkoxy alkanoates", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "mediator_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of oxalate monoester to oxalate radical, which decarboxylates to an alkoxycarbonyl radical; iodide (from NH4I) acts as a redox mediator shuttling electrons to the anode; H2 evolution at the Pt cathode closes the cell balance", "key_intermediates": [{"name": "oxalate radical (RO2C-CO2•) from anodic oxidation of oxalate monoester", "smiles": null, "role": "transient"}, {"name": "alkoxycarbonyl radical (RO-C(=O)•) (I)", "smiles": null, "role": "reactive"}, {"name": "benzyl radical from addition to styrene (II)", "smiles": null, "role": "reactive"}, {"name": "benzyl carbocation after anodic oxidation (III)", "smiles": null, "role": "reactive"}, {"name": "acyl hypoiodide (RO-C(=O)-OI) alternative precursor to alkoxycarbonyl radical (path b)", "smiles": null, "role": "off_pathway"}, {"name": "iodide / I2 redox mediator from NH4I", "smiles": "[I-]", "role": "transient"}], "electron_flow": "Anode oxidizes the oxalate monoester (assisted by I-/I2 mediation) to an oxalate radical which loses CO2 to give an alkoxycarbonyl radical; this radical adds to the styrene to give a benzyl radical, which is further oxidized at the anode to a benzyl cation that is captured by the alcohol nucleophile, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely suppressed (3a, 0% yield), indicating radical intermediates"}, {"name": "α-cyclopropylstyrene (13)", "smiles": "C(=C)(c1ccc(C)cc1)C1CC1", "purpose": "radical_clock", "observation": "Mainly non-ring-opened β-ethoxy ester 14 (63%) with small amount of ring-opened product 15 (10%), indicating fast anodic oxidation of the benzyl radical to cation before ring opening"}, {"name": "NH4I (cyclic voltammetry control)", "smiles": "[NH4+].[I-]", "purpose": "redox_probe", "observation": "CV shows substantial current increase upon addition of NH4I, consistent with iodide acting as a redox mediator"}], "evidence_types_used": ["radical_clock", "intermediate_trap_TEMPO", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors favor path a (direct anodic oxidation of oxalate to oxalate radical, then decarboxylation). An alternative path b — homolysis of an acyl hypoiodide RO-C(=O)-OI formed from I2 — cannot be ruled out. NH4I enhances current and likely facilitates charge transfer as an iodide mediator. Tethered-nucleophile alkenes (9, 10) give cyclized THF/γ-butyrolactone products (11, 12), consistent with carbocation capture by the pendant OH/CO2H."}
